US08624062B2
WO 95/27693 discloses that a 2-substituted phenyl-N-alkylacetamide compound having an alkoxy group at the 2-position typified by 2-[2-(2,5-dimethylphenoxymethyl)phenyl]-2-methoxy-N-methylacetamide is useful as an agricultural fungicide, and also discloses, as a method for producing the compound; a method in which methyl 2-[2-(2,5-dimethylphenoxymethyl)phenyl]-2-hydroxyacetate is reacted with methyl iodide to obtain methyl 2-[2-(2,5-dimethylphenoxymethyl)phenyl]-2-methoxyacetate, and then the methyl 2-[2-(2,5-dimethylphenoxymethyl)phenyl]-2-methoxyacetate is reacted with methylamine to obtain 2-[2-(2,5-dimethylphenoxymethyl)phenyl]-2-methoxy-N-methylacetamide.

reactant | 2-[2-(2,5-dimethylphenoxymethyl)phenyl]-2-methoxy-N-methylacetamide | CC1=C(OCC2=C(C=CC=C2)C(C(=O)NC)OC)C=C(C=C1)C | C19H23NO3
reactant | methyl 2-[2-(2,5-dimethylphenoxymethyl)phenyl]-2-hydroxyacetate | CC1=C(OCC2=C(C=CC=C2)C(C(=O)OC)O)C=C(C=C1)C | C18H20O4
reactant | methyl iodide | CI | CH3I
product | methyl 2-[2-(2,5-dimethylphenoxymethyl)phenyl]-2-methoxyacetate | CC1=C(OCC2=C(C=CC=C2)C(C(=O)OC)OC)C=C(C=C1)C | C19H22O4
